US06514968B1
Preparation 26 6-Chloro-9-(4-fluorobenzyl)-9H-carbazol-4-ol
Pyridinium bromide perbromide (0.6155 g, 0.0019 mol) is added to a solution of 6-chloro-9-(4-fluorobenzyl)-1,2,3,9-tetrahydro-4H-carbazol-4-one in THF (2.2 mL) and DMF (1.5 mL) and the mixture is heated to 75° C. After stirring for 3.5 h, the THF is removed under reduced pressure and the residue is partitioned between dichloromethane and brine. The combined organic layers are washed with dilute sodium thiosulfate/brine and the aqueous layer is backwashed with dichloromethane. The combined organic layers are dried over magnesium sulfate and concentrated under reduced pressure to give a residue. A mixture of the resulting residue, lithium bromide (0.3077 g, 0.0036 mol), lithium carbonate (0.2376 g, 0.0032 mol) and DMF (6 mL) is heated at 120° C. for two hours. The DMF is removed under high vacuum and the residue is partitioned between dichloromethane and water. The combined organic layers are dried over sodium sulfate and concentrated to dryness. The residue is chromatographed on silica gel (125 mL) using dichloromethane (100%) to give 0.3773 g (73%) of the title compound. An aliquot is recrystallized from dichloromethane/hexane; MS (ESI−) for C19H13ClFNO m/z 324.1 (M−H)−; IR (drift) 1510, 1468, 1444, 1335, 1297, 1263, 1232, 1218, 1147, 1116, 832, 822, 791, 778, 745 cm−1; 1H NMR (CDCl3) δ5.37, 5.43, 6.59, 6.94, 7.07, 7.23, 7.33, 8.31. Anal. Calcd for C19H13ClFNO: C, 70.05; H, 4.02; N, 4.30; Cl, 10.88. Found: C, 68.51; H, 3.96; N, 4.27.

reactant | Pyridinium bromide perbromide | 0.0019 mol, 0.6155 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | 6-chloro-9-(4-fluorobenzyl)-1,2,3,9-tetrahydro-4H-carbazol-4-one | ClC=1C=C2C=3C(CCCC3N(C2=CC1)CC1=CC=C(C=C1)F)=O | C19H15ClFNO
reactant | lithium bromide | 0.0036 mol, 0.3077 g | [Br-].[Li+]
reactant | lithium carbonate | 0.0032 mol, 0.2376 g | C([O-])([O-])=O.[Li+].[Li+]
solvent | THF | 2.2 mL | C1CCOC1 | C4H8O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 6-Chloro-9-(4-fluorobenzyl)-9H-carbazol-4-ol | 0.3773 g, 73% | ClC=1C=C2C=3C(=CC=CC3N(C2=CC1)CC1=CC=C(C=C1)F)O | C19H13ClFNO
